US08080568B1
Preparation of 2-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-1-(6-methylpyridin-2-yl)ethanone (a compound of the formula (IV) wherein Ra═CH3)
To a stirred solution of [1,2,4]triazolo[1,5-a]pyridine-6-carbaldehyde (2.50 g, 17.01 mmol) (prepared according to the method described in WO 03/087304 A2) and diphenyl (6-methylpyridin-2-yl)(phenylamino)methylphosphonate (7.32 g, 17.01 mmol) in a mixture of THF (40 mL) and i-PrOH (10 mL) was added Cs2CO3 (7.20 g, 22.11 mmol), and the mixture was stirred at room temperature overnight. A solution of 3 N HCl (25 mL) was added dropwise to the reaction mixture, and the mixture was stirred for 1 h. It was then diluted with tert-butyl methyl ether (40 mL) and extracted with 1 N HCl (2×35 mL). The aqueous extracts were neutralized with 50% KOH until pH 7-8 was reached. The precipitates were collected by filtration, washed with water, and dried over P2O5 in vacuo to give the titled compound (3.41 g, 80%) as an off-white solid. 1H NMR (400 MHz, CDCl3): δ 8.61 (d, 1H, J=0.8 Hz), 8.31 (s, 1H), 7.88 (dd, 1H, J=7.6, 1.6 Hz), 7.73 (t, 1H, overlapped, J=7.6 Hz), 7.71 (dd, 1H, overlapped, J=9.2, 0.8 Hz), 7.54 (dd, 1H, J=9.2, 1.6 Hz), 7.37 (dd, 1H, J=7.6, 1.6 Hz), 4.62 (s, 2H), 2.67 (s, 3H).

reactant | [1,2,4]triazolo[1,5-a]pyridine-6-carbaldehyde | 17.01 mmol, 2.50 g | N=1C=NN2C1C=CC(=C2)C=O | C7H5N3O
reactant | diphenyl (6-methylpyridin-2-yl)(phenylamino)methylphosphonate | 17.01 mmol, 7.32 g | CC1=CC=CC(=N1)C(NC1=CC=CC=C1)P(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C25H23N2O3P
reactant | Cs2CO3 | 22.11 mmol, 7.20 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | 3 N, 25 mL | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | i-PrOH | 10 mL | CC(C)O | C3H8O
solvent | tert-butyl methyl ether | 40 mL | COC(C)(C)C | C5H12O
product | 2-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-1-(6-methylpyridin-2-yl)ethanone | 3.41 g, 80% | N=1C=NN2C1C=CC(=C2)CC(=O)C2=NC(=CC=C2)C | C14H12N4O
